US03930837
5-nitro-isoquinoline (3 g) was dissolved in warm ethanol (40 ml) and hydrogen bromide was added (4.5 ml of a 48% w/v aqueous solution). The salt precipitated immediately, and the reaction mixture was cooled to room temperature, filtered, the residue washed with ethanol, and dried, to yield 3.95 g of 5-nitro-isoquinoline hydrobromide of melting point 250.5°C.

reactant | 5-nitro-isoquinoline | 3 g | [N+](=O)([O-])C1=C2C=CN=CC2=CC=C1 | C9H6N2O2
reactant | hydrogen bromide | Br | BrH
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 5-nitro-isoquinoline hydrobromide | 3.95 g | Br.[N+](=O)([O-])C1=C2C=CN=CC2=CC=C1 | InChI=1S/C9H6N2O2.BrH/c12-11(13)9-3-1-2-7-6-10-5-4-8(7)9;/h1-6H;1H
